US03951989
To a stirred solution of 19.9 parts of methyl 2-acetamidothiophene-3-carboxylate in 200 parts by volume of chloroform, 8.2 parts by volume of sulfuryl chloride is added dropwise at below 30°C. The mixture is stirred at room temperature for 30 minutes and then cooled with ice. To the mixture, about 300 parts by volume of saturated aqueous sodium bicarbonate solution is cautiously added with stirring. The chloroform layer is separated, washed with water and dried over sodium sulfate. Evaporation of the solvent gives methyl 2-acetamido-5-chlorothiophene-3-carboxylate as crystals. Recrystallization from methanol gives needles melting at 110°-110.5°C. This compound is identical with that obtained in Reference Example 17.

reactant | methyl 2-acetamidothiophene-3-carboxylate | C(C)(=O)NC=1SC=CC1C(=O)OC | C8H9NO3S
reactant | sulfuryl chloride | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | methyl 2-acetamido-5-chlorothiophene-3-carboxylate | C(C)(=O)NC=1SC(=CC1C(=O)OC)Cl | C8H8ClNO3S
